US05376644
5-Bromo-1-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)uracil
The 5'-O-toluoyl derivative of 1-(2,3-dideoxy-3-fluoro-β-D-erythropentofuranosyl)uracil, prepared as described in Example 1, (200 mg, 0.574 mmol), glacial acetic acid (5 ml) and bromine (0.08 ml of an 8M solution in glacial acetic acid, 0.64 mequiv.) were stirred at 25° for 18 hours. The solution was evaporated to a glass which was treated with sodium methoxide and methanol as described in Example 1. Product was eluted from a silica gel column with 5% MeOH-CH2Cl2 as white crystals (135 mg). Recrystallization from EtOH gave title compound as white crystals (115 mg, 64% overall yield); m.p. 193.5°-194° dec.; Anal Calcd for C9H10BrFN2O4 : C, 34.97; H, 3.26; N, 9.06; Br, 25.85; F, 6.15. Found: C, 35.07; H, 3.31; N, 9.00; Br, 25.78; F, 6.04; UV λ max (H2O): 277 nM; structure further confirmed by 'H-NMR and mass spectrum.

reactant | 1-(2,3-dideoxy-3-fluoro-β-D-erythropentofuranosyl)uracil | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.574 mmol, 5 ml, 200 mg | C(C)(=O)O | C2H4O2
product | 5-Bromo-1-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)uracil | 115 mg, 64% | BrC=1C(NC(N(C1)[C@H]1C[C@@H]([C@H](O1)CO)F)=O)=O | C9H10BrFN2O4
